US04760064
To a suspension of 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril (10 g) in anhydrous tetrahydrofuran (250 ml) was added slowly n-butyllithium (20 ml, 1.5N hexane solution) with stirring and under ice-cooling. After completion of addition, the mixture was stirred at room temperature for 2 hours. Then, to the mixture was added slowly a solution of p-nitrobenzoyl chloride (6.1 g) in anhydrous tetrahydrofuran (25 ml) with stirring and under ice-cooling. After completion of addition, the mixture was stirred at the same temperature for 30 minutes. After completion of reaction, the reaction mixture was poured into water and extracted with chloroform. The chloroform layer was washed successively with water and saturated saline solution and dried over magnesium sulfate. The choloroform extract was evaporated under reduced pressure and the resultant residue was purified by silica-gel column chromatography (eluent:dichloromethane:methanol=100:1) to give 1-(4-nitrobenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]3,4-dihydrocarbostyril (2.6 g).

reactant | 6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 10 g | COC=1C=C(C(=O)N2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | C22H25N3O4
reactant | n-butyllithium | 1.5N, 20 ml | C(CCC)[Li]
reactant | p-nitrobenzoyl chloride | 6.1 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-(4-nitrobenzoyl)-6-[4-(3,4-dimethoxybenzoyl)-1-piperazinyl]3,4-dihydrocarbostyril | 2.6 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C(=O)CCC3=CC(=CC=C23)N2CCN(CC2)C(C2=CC(=C(C=C2)OC)OC)=O)C=C1 | C29H28N4O7
